US07435751B2
Step 5: Preparation of (R)-{3-[7-fluoro-1-(2-fluoro-ethyl)-2-oxo-2,3-dihydro-1H-indol-5-ylamino]-2-hydroxy-propyl}-carbamic acid tert-butyl ester
5-Amino-7-fluoro-1-(2-fluoro-ethyl)-1,3-dihydro-indol-2-one (0.39 g, 1.84 mmol), (S)-oxiranylmethyl-carbamic acid tert-butyl ester (0.319 g, 1.84 mmol) and lithium trifluoromethanesulfonate (0.283 g, 1.84 mmol) in acetonitrile (4 ml) are heated at 90° C. for 6 hours. The reaction mixture is diluted with ethyl acetate, washed with water and brine, dried (Na2SO4) and evaporated. Final purification by flash chromatography (70% Ethyl acetate/hexane) gives the title compound as a yellow-brown foamy solid. HPLC r.t. 3.92 min; MS for C18H25F2N3O4 m/z 386.1 (M+H)+.

reactant | 5-Amino-7-fluoro-1-(2-fluoro-ethyl)-1,3-dihydro-indol-2-one | 1.84 mmol, 0.39 g | NC=1C=C2CC(N(C2=C(C1)F)CCF)=O | C10H10F2N2O
reactant | (S)-oxiranylmethyl-carbamic acid tert-butyl ester | 1.84 mmol, 0.319 g | C(C)(C)(C)OC(NC[C@@H]1OC1)=O | C8H15NO3
reactant | lithium trifluoromethanesulfonate | 1.84 mmol, 0.283 g | FC(S(=O)(=O)[O-])(F)F.[Li+]
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-{3-[7-fluoro-1-(2-fluoro-ethyl)-2-oxo-2,3-dihydro-1H-indol-5-ylamino]-2-hydroxy-propyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC[C@@H](CNC=1C=C2CC(N(C2=C(C1)F)CCF)=O)O)=O | C18H25F2N3O4
